US04303656
2-(N,N-dimethylaminomethyl)-4-(4-chloro-3-trifluoromethylphenyl)chroman
The process of example 4 was repeated using N,N-dimethylglycine ethyl ester in place of N,N-dimethylalanine ethyl ester in part (a), and using 5-bromo-2-chlorobenzotrifluoride in place of 4-bromochlorobenzene in part (c) to yield the title compound which was isolated as the hydrochloride salt.

reactant | N,N-dimethylglycine ethyl ester | C(C)OC(CN(C)C)=O | C6H13NO2
reactant | 5-bromo-2-chlorobenzotrifluoride | BrC=1C=CC(=C(C1)C(F)(F)F)Cl | C7H3BrClF3
product | 2-(N,N-dimethylaminomethyl)-4-(4-chloro-3-trifluoromethylphenyl)chroman | CN(C)CC1OC2=CC=CC=C2C(C1)C1=CC(=C(C=C1)Cl)C(F)(F)F | C19H19ClF3NO
